US06274536B1
3-(3-Chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-2-oxo-[2H]-pyridin-1-yl)-propionaldehyde
0.40 g of 3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-1-(2-[1.3]-dioxolan-2-ylethyl)-5-fluoro-[1H]-pyridin-2-one is stirred overnight at 22° C. in a mixture of 6 ml of 2N hydrochloric acid and 6 ml of diethyl ether. The next day, the same amount of the mixture together with 2 ml of tetrahydrofuran are added and the mixture is again stirred overnight. The mixture is subsequently diluted with diethyl ether and washed three times with brine, dried over sodium sulfate, filtered and concentrated to dryness in vacuo. 0.23 g of the desired compound (crude) is obtained in the form of a yellow oil.

reactant | 3-chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-1-(2-[1.3]-dioxolan-2-ylethyl)-5-fluoro-[1H]-pyridin-2-one | 0.40 g | ClC=1C(N(C(=C(C1)F)C1=NN(C(=C1Cl)OC(F)F)C)CCC1OCCO1)=O | C15H14Cl2F3N3O4
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 6 ml | Cl | ClH
solvent | diethyl ether | 6 ml | C(C)OCC | C4H10O
product | 3-(3-Chloro-6-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-5-fluoro-2-oxo-[2H]-pyridin-1-yl)-propionaldehyde | 0.23 g | ClC=1C(N(C(=C(C1)F)C1=NN(C(=C1Cl)OC(F)F)C)CCC=O)=O | C13H10Cl2F3N3O3
